US05491145
Production of 4-hydroxy-3,3-dimethyl-1-butanesulfonamide
To a suspension of 0.35 g of lithium aluminum hydride in 30 ml of tetrahydrofuran being stirred under ice cooling conditions, a solution of 1.5 g of ethyl 4-aminosulfonyl-2,2-dimethylbutyrate in 8 ml of tetrahydrofuran was added dropwise, followed by stirring at 0° C. for 30 minutes and then at room temperature (15° to 20° C.) for 30 minutes. To the reaction mixture was added aqueous tetrahydrofuran to decompose excess lithium aluminum hydride, followed by neutralization with 2 N hydrochloric acid and extraction with ethyl acetate. After the extract was washed with water and dried over MgSO4, the solvent was distilled off. The residue was subjected to silica gel column chromatography and eluted with hexane:ethyl acetate (1:1) to yield 0.94 g of the title compound.

reactant | lithium aluminum hydride | 0.35 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ethyl 4-aminosulfonyl-2,2-dimethylbutyrate | 1.5 g | NS(=O)(=O)CCC(C(=O)OCC)(C)C | C8H17NO4S
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 8 ml | O1CCCC1 | C4H8O
product | 4-hydroxy-3,3-dimethyl-1-butanesulfonamide | 0.94 g | OCC(CCS(=O)(=O)N)(C)C | C6H15NO3S
